US03947513
20 g (0.113 mole) of 3-trifluoromethyl-phenylhydrazine were dissolved in 50 ml of methanol with addition of 5 ml of acetic acid; 16 g (0.115 mole) of sulfinylaniline were added dropwise at a temperature of 22°C. The product crystallized out while the temperature rose to about 30°C. After filtration and drying, 16 g of N-sulfinyl-N-' -(3-trifluoromethylphenyl)-hydrazine of melting point 100°C were obtained. The yield was 64% of theory.

reactant | 3-trifluoromethyl-phenylhydrazine | 0.113 mole, 20 g | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | sulfinylaniline | 0.115 mole, 16 g | S(=O)=NC1=CC=CC=C1 | C6H5NOS
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-sulfinyl-N-' -(3-trifluoromethylphenyl)-hydrazine | 16 g, yield was 64% | S(=O)=NNC1=CC(=CC=C1)C(F)(F)F | C7H5F3N2OS
